Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Briefly, ___ female ___ student with
past psychiatric history of major depressive disorder, no past
medical history who is brought in by campus police after she
texted suicidal statements to her boyfriend. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, ___ female ___ student with
past psychiatric history of major depressive disorder, no past
medical history who is brought in by campus police after she
texted suicidal statements to her boyfriend. Per initial ___
consult note, patient made statements because she was feeling
lonely and desperate but had no intention of killing herself.
However, notes worsening neurovegetative symptoms over last
several months (amotivation, hypersomnia, worthlessness, only
eating 1.5 meals/day, low energy, feeling down and tearful).
Endorses passive SI (wishing she would not wake up from sleep)
however, has researched effects of overdosing on
anti-depressants. Self-discontinued Lexapro 6 months ago ___
amotivation. 
  
Multiple psychosocial stressors include: tumultuous relationship
with her boyfriend of ___ years, feeling that she never really
made good friends at ___, and academic pressures. Had a
medical abortion last ___ i/s/o not taking OCP regularly or
reliably using barrier methods. 

Collateral obtained from mother in ___, please appreciate in
initial ___ consult note. 

 On interview, patient reiterated events described in prior ___
notes, specifically that prior to presentation she had been
fighting with boyfriend over text and started to get really
depressed, lonely, and desperate. She wanted him to pay
attention/take it seriously, so she "exaggerated a bit" and said
statements such as "I want to kill myself...I couldn't deal with
this feeling...I was really exhausted." She reports that her
boyfriend would not be able to physically get to her for at 
least
___ minutes and called the ___ police who brought her to the 
___.

  
Patient describes relationship with boyfriend in more detail,
discussing how it has been tumultuous and "dramatic" following
her return from studying abroad in ___. They had had open
relationship, but she learned that he had developed an emotional
relationship with someone else (thus breaking their previously
established rules) which lead her to feel "betrayed", develop
"trust issues" and had a "hurt self esteem". She says that she
had always felt that there was a slight imbalance in their
relationship (that he had more feelings for her than vice versa)
and was surprised that he hurt her. Patient reports a history of
a "personal problem of co-dependency" and has had tumultuous
relationship with prior boyfriend, reports history of not 
wanting
to be alone/not feeling happy alone. Reports reacting strongly 
to
feeling rejected in the past. Patient also describes time during
freshman year of college when she went through a particularly 
bad
time in which she cheated on her boyfriend, hurt people close to
her and acted irrationally/promiscuous. At that time she sought
counseling because she was concerned by her behavior.  

Psych ROS: 
Reports chronic depressed mood (though would not describe as
"sad") but says things started getting worse in college as it 
did
not feel like the "right place for her" given large size of
school and she does not like ___. Reports amotivation as 
major
symptom of her depression, also endorses hypersomnia
(12hrs/night), decreased appetite (amotivation re: obtaining
food), and lack of energy. She also reports recent increase in
alcohol intake/partying i/s/o depressive symptoms and increased
marijuana use (smokes everyday, says that it initially helped 
her
to enjoy things more (feels uplifted/"less in her head") but now
feels addicted, as though she's self-medicating as an
anti-depressant. Denies anhedonia or hopelessness, stating "I
still see a future, see myself doing things and having a
successful life" but feels like she's currently messing up the
steps to get there. Denies current SI, though has had passive SI
in past, and during recent incident with boyfriend endorses
researching plan for the first time (looked up complications of
overdosing on antidepressants; says fear of pain keeps her from
acting on it). Denies SIB or HI.

Denies symptoms of anxiety (reports +panic attacks when younger
during parents divorce/custody battle), mania, or psychosis.  

 
Past Medical History:
Past psychiatric history: History was noted from Dr. ___
consult note from  ___, and subsequent psychiatry CL notes in
___, confirmed with patient and updated as relevant:
Diagnosis: Depression (diagnosed in senior year of HS, ___
Hospitalizations: no previous hospitalizations
Current treaters and treatment: no local providers 
(has psychiatrist (___) and therapist (5x) in ___)
Medication and ECT trials: Lexapro (worked for a long time,
stopped taking 6 months ago)
Self-injury: denies
Harm to others: denies
Access to weapons: denies

 Past medical history: History was noted from Dr. ___
consult note from  ___, and subsequent psychiatry CL notes in
OMR, confirmed with patient and updated as relevant:
- migraines 
- UTI's

 Medications:
Patient is not currently taking any medications
- previously on Lexapro 10mg daily (stopped taking this 6 months
ago)
- OCP (not taking regularly)

 
Social History:
Substance use history: History was noted from Dr. ___ 
consult note from  ___, and subsequent psychiatry CL notes in 
OMR, confirmed with patient and updated as relevant:
- Alcohol: occasionally ___ drinks when she does)
- Tobacco: denies
- Other: uses marijuana daily to "self-medicate", not thinks 
she's addicted; denies others

Forensic history: History was noted from Dr. ___ consult 
note from  ___, and subsequent psychiatry CL notes in OMR, 
confirmed with patient and updated as relevant:
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole): na

Personal and Social History: ___
Family History:
Family psychiatric history: History was noted from Dr. ___
consult note from  ___, and subsequent psychiatry CL notes in
OMR, confirmed with patient and updated as relevant:
-Mother: depression on ___, anxiety, addiction (heroin) 
-Father: ?depression (patient says no formal diagnosis)
-Paternal grandfather completed suicide 
-___ uncle completed suicide 
 
Physical Exam:
 VS: T: 98.4, BP: 121/79, HR: 86, R: 16, O2 sat: 98% on RA

General: young female in NAD. Well-nourished, well-developed.
Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Not tested.
 IX, X: Not tested.
 XI: Trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not tested.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): DOWB
  Memory: intact to recent and past history
  Fund of knowledge: consistent with education, ___ presidents
  Calculations: $2.25= 9 quarters
  Abstraction: apple/orange: fruits
  Don't judge a book by it's cover: Don't judge something based
on how it looks, give it a chance 
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed in hospital gown
 Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
 Mood and Affect: "weirdly upbeat" / euthymic, full range,
congruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or
paranoia 
 Judgment and Insight: fair/fair

 
Pertinent Results:
___ 03:35AM URINE  UCG-NEGATIVE
___ 03:35AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:35AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
___ 03:35AM URINE  RBC-0 WBC-3 BACTERIA-MANY YEAST-NONE 
EPI-1 TRANS EPI-<1
___ 03:02AM   GLUCOSE-88 UREA N-7 CREAT-0.6 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-18* ANION GAP-19
___ 03:02AM   estGFR-Using this
___ 03:02AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:02AM   WBC-8.8 RBC-4.47 HGB-12.8 HCT-39.0 MCV-87 
MCH-28.6 MCHC-32.8 RDW-14.0 RDWSD-45.0
___ 03:02AM   NEUTS-51.6 ___ MONOS-11.2 EOS-1.3 
BASOS-0.6 IM ___ AbsNeut-4.54 AbsLymp-3.07 AbsMono-0.98* 
AbsEos-0.11 AbsBaso-0.05
___ 03:02AM   PLT COUNT-___.) Legal/Safety:
Patient signed a CV upon her admission and engaged fully in her 
care.  She was unit-restricted and monitored on 15 minute checks 
with monitored access to sharps. She maintained her safety 
throughout her psychiatric hospitalization on 15 minute checks 
and did not require physical or chemical restraints. 

2.) Psychiatric:
# MDD vs adjustment disorder:
Patient did report symptoms of depression including hypersomnia, 
poor appetite, loss of interest, and lack of motivation and 
concentration.  Regarding the suicidal statements she made prior 
to her presentation she explained that she shared them in an 
effort to elicit attention from her boyfriend with whom she had 
been fighting for some weeks.  She adamantly denied that she 
intended to act on her thoughts and denied stock-piling pills; 
she claimed that she used the internet to research the effects 
of SSRI overdose only in the setting of their most recent 
argument.  She consistently denied SI while on the unit and was 
deemed not a danger to herself or others.  For her depression 
she elected to start Prozac rather than resume Lexapro as she 
endorsed difficulty taking her medications on a daily basis and 
complained of withdrawal symptoms on discontinuation of Lexapro. 
 Otherwise, the patient did share that she felt a stranger in 
___ and had found few friends since moving to ___ 
for college.  She reported feeling unsupported and uninspired in 
her new environment which contrasted the life she had known in 
___, where she grew up. Individual therapy, she claimed, had 
historically been variably helpful and she expressed interest in 
a trial of therapy for presumed ongoing adjustment disorder.

# Substance use:
Patient admitted to using marijuana on a daily basis initially 
for mood stabilization.  It was felt that daily marijuana use 
was contributing to her amotivation and she was counseled on the 
importance of cessation. 

3.) Medical:
UA on admission with trace leukocytes and many bacteria, urine 
culture growing E. coli.  Patient reports chronic urinary tract 
infections.  Given fosfomycin 3 g once.

 4.) Social Work / Dispo:
Made appointments with both a therapist and PCP through 
___.  Patient was discharged after a family 
meeting with her father, who agreed with above discharge plan. 

 
Medications on Admission:
1. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
2.  LORazepam 0.5 mg PO DAILY PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder
MDD

 
Discharge Condition:
VS: T 98.2 PO; BP 130 / 90; HR 87; RR 16; SpO2 100% RA 

Appearance/Behavior- Casually groomed young female wearing black 
sweater and slacks; calm, composed, cooperative
Speech- Fluent ___, no paraphasic errors, normal rate, 
volume, and prosody
Mood/Affect- 'I'm better I guess' / Full, somewhat dysphoric
Thought process- Linear, future and goal-oriented
Thought content- Denies SI/HI/AVH, eager to resume school
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___